US07989454B2
4-{2-(2-Carboxy-ethyl)-3-[6-(3′-fluoro-5-methylcarbamoyl-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid
The title compound was prepared according to the general procedure described in Steps 7 and 8 of Method C starting from 5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid and methylamine.

reactant | 5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C=C(C1)C1=CC(=CC=C1)F)C(=O)O | C36H43FO8
reactant | methylamine | CN | CH5N
product | 4-{2-(2-Carboxy-ethyl)-3-[6-(3′-fluoro-5-methylcarbamoyl-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(NC)=O)C1=CC(=CC=C1)F | C33H38FNO7
